US08609656B2
1-(4-Chloro-3-(trifluoromethyl)phenyl)-3-[4-(6-morpholin-4-yl-purin-9-yl)phenyl]urea (Table 2, Compound No. 4)
The title compound can be synthesized from 6-chloropurine, morpholine, 4-fluoronitrobenzene and 4-chloro-3-(trifluoromethyl)phenyl isocyanate by using the same techniques as in Example 35.

reactant | 6-chloropurine | ClC1=C2NC=NC2=NC=N1 | C5H3ClN4
reactant | morpholine | N1CCOCC1 | C4H9NO
reactant | 4-fluoronitrobenzene | FC1=CC=C(C=C1)[N+](=O)[O-] | C6H4FNO2
reactant | 4-chloro-3-(trifluoromethyl)phenyl isocyanate | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
product | 1-(4-Chloro-3-(trifluoromethyl)phenyl)-3-[4-(6-morpholin-4-yl-purin-9-yl)phenyl]urea | ClC1=C(C=C(C=C1)NC(=O)NC1=CC=C(C=C1)N1C2=NC=NC(=C2N=C1)N1CCOCC1)C(F)(F)F | C23H19ClF3N7O2
